US07414076B2
Preparation of 3-cumylamino-1-propanesulfonic acid (Compound DM)
To a solution of cumylamine (10.5 g, 78 mmol) in tetrahydrofuran (75 mL) was slowly added a solution of 1,3-propane sultone (9.2 g, 74 mmol) in THF (20 mL). The mixture was stirred at reflux for 4 h. The reaction mixture was cooled to room temperature. The solid was collected by filtration, and washed with THF (2×35 mL). The solid was suspended in EtOH (80 mL). The suspension was stirred at reflux for 15 minutes. The solid product was collected by filtration, washed with EtOH (35 mL) and acetone (35 mL). The resulting solid was dried in vacuo, affording compound DM (5.6 g, 30%). 1H NMR (D2O, 500 MHz) δ ppm 7.41 (m, 5H), 2.74 (m, 4H), 1.88 (m, 2H), 1.66 (s, 6H). 13C NMR (D2O, 125 MHz) δ ppm 138.36, 129.44, 129.41, 126.52, 61.56, 48.04, 41.21, 24.80, 21.81. ES-MS 256 (M−1).

reactant | cumylamine | 78 mmol, 10.5 g | C(C)(C)(C1=CC=CC=C1)N | C9H13N
reactant | 1,3-propane sultone | 74 mmol, 9.2 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-cumylamino-1-propanesulfonic acid | C(C)(C)(C1=CC=CC=C1)NCCCS(=O)(=O)O | C12H19NO3S
